US05521147
To a stirred solution of 108.3 grams (0.78 mole) of 2,6-difluorobenzonitrile and 78.2 grams (0.93 mole) of 2-methyl-3-butyn-2-ol in 800 mL of dimethyl sulfoxide 65.5 grams (1.17 moles) of potassium hydroxide was added portionwise during a 20 minute period. Upon completion of the addition, the reaction mixture was stirred at ambient temperature for about 18 hours, after which the reaction mixture was poured into ice-water and extracted with diethyl ether. The extract was washed with water and dried with magnesium sulfate. The mixture was filtered and the filtrate concentrated under reduced pressure, yielding 75.3 grams of 3-(2-cyano-3-fluoro-phenoxy)-3-methyl-1-butyne. The NMR spectrum was consistent with the proposed structure.

reactant | 2,6-difluorobenzonitrile | 0.78 mole, 108.3 grams | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | 2-methyl-3-butyn-2-ol | 0.93 mole, 78.2 grams | CC(C)(C#C)O | C5H8O
reactant | dimethyl sulfoxide | 1.17 moles, 800 mL, 65.5 grams | CS(=O)C | C2H6OS
reactant | potassium hydroxide | [OH-].[K+]
product | 3-(2-cyano-3-fluoro-phenoxy)-3-methyl-1-butyne | 75.3 grams | C(#N)C1=C(OC(C#C)(C)C)C=CC=C1F | C12H10FNO
